US06380215B1
A mixture of ethyl 1-[2-(1-benzyloxycarbonyl-4-piperidyloxy)acetyl]-3-piperidinecarboxylate (2.06 g) and 1N NaOH aqueous solution (14.29 ml) in a solution of tetrahydrofuran (10 ml), ethanol (10 ml) and water (10 ml) was stirred for 1 hour at ambient temperature. The mixture was acidified with 10% aqueous solution of KHSO4 and extracted with ethyl acetate. The extract was washed with water, brine and dried over MgSO4, and evaporated in vacuo. The residue was recrystallized from diethyl ether to give 1-[2-(1-benzyloxycarbonyl-4-piperidyloxy)acetyl]-3-piperidinecarboxylic acid (1.51 g).

reactant | ethyl 1-[2-(1-benzyloxycarbonyl-4-piperidyloxy)acetyl]-3-piperidinecarboxylate | 2.06 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)OCC(=O)N1CC(CCC1)C(=O)OCC | C23H32N2O6
reactant | NaOH | 1N, 14.29 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | water | 10 ml | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-[2-(1-benzyloxycarbonyl-4-piperidyloxy)acetyl]-3-piperidinecarboxylic acid | 1.51 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)OCC(=O)N1CC(CCC1)C(=O)O | C21H28N2O6
